US08193378B2
7-Hydroxy-2,3-dihydro-4H-chromen-4-one (900 mg) was dissolved in DMF (10 mL), and tert-butyl(chloro)diphenylsilane (1.711 mL) and 1H-imidazole (448 mg) were added thereto, followed by stirring at room temperature overnight. To the reaction liquid was added water, followed by extraction with EtOAc three times. The organic layer was combined, washed with water and brine in this order, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=90:10 to 80:20) to obtain 7-{[tert-butyl(diphenyl)silyl]oxy}-2,3-dihydro-4H-chromen-4-one (2.08 g) as a colorless transparent syrup.

reactant | 7-Hydroxy-2,3-dihydro-4H-chromen-4-one | 900 mg | OC1=CC=C2C(CCOC2=C1)=O | C9H8O3
reactant | tert-butyl(chloro)diphenylsilane | 1.711 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | 1H-imidazole | 448 mg | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 7-{[tert-butyl(diphenyl)silyl]oxy}-2,3-dihydro-4H-chromen-4-one | 2.08 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(CCOC2=C1)=O | C25H26O3Si
